US04463173
To a suspension of 7-amino-3-methylceph-3-em-4-carboxylic acid (7.76 g., 0.036 mole) in anhydrous THF at 0°, cooled in an ice-bath, was added trimethylchlorosilane (7.8 g., 9.07 ml., 2 equivalents) and triethylamine (7.3 g., 10 ml., 2 equivalents). After 10 minutes the ice-bath was removed and the mixture left at ambient temperature for 2 hours. To the mixture was added two equivalents of acetic formic mixed anhydride and the mixture was allowed to stand at ambient temperature for a further 1.5 hours. Water (5 ml.) was added, the precipitated triethylamine hydrochloride was filtered off and the filtrate evaporated on a rotatory evaporator. THF (50 ml.) was added to the residual oil and the solution was esterified with diphenyldiazomethane. The product was purified by chromatography on silica using CH2Cl2 /ether 1:1 v/v as eluant to give diphenylmethyl 7-formylamino-3-methylceph-3-em-4-carboxylate.

reactant | 7-amino-3-methylceph-3-em-4-carboxylic acid | 0.036 mole, 7.76 g | NC1[C@@H]2N(C(=C(CS2)C)C(=O)O)C1=O | C8H10N2O3S
reactant | trimethylchlorosilane | 9.07 ml, 7.8 g, 2 equivalents | C[Si](Cl)(C)C | C3H9ClSi
reactant | triethylamine | 10 ml, 7.3 g, 2 equivalents | C(C)N(CC)CC | C6H15N
reactant | acetic | two equivalents | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | THF | C1CCOC1 | C4H8O
solvent | Water | 5 ml | O | H2O
product | diphenylmethyl 7-formylamino-3-methylceph-3-em-4-carboxylate | C(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H20N2O4S
